US08791119B2
To a solution of 34 g (119 mmol) of 6-chloro-7-phenyl-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-8-carbonitrile in 300 ml of dichloromethane are added 16.3 ml (143 mmol) of tert-butyl isocyanate (CAS1609-86-5). After stirring for 4 hours at room temperature, the solvent is evaporated off under reduced pressure to give an orange-coloured solid, which is crystallized from acetonitrile to give 40.0 g of N-tert-butyl-6-chloro-8-cyano-7-phenyl-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxamide in the form of a yellow powder after filtering off and drying.

reactant | 6-chloro-7-phenyl-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-8-carbonitrile | 119 mmol, 34 g | ClC1=C(C(=C2N1CCNC2)C#N)C2=CC=CC=C2 | C14H12ClN3
reactant | tert-butyl isocyanate | 143 mmol, 16.3 ml | C(C)(C)(C)N=C=O | C5H9NO
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | N-tert-butyl-6-chloro-8-cyano-7-phenyl-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxamide | 40.0 g | C(C)(C)(C)NC(=O)N1CC=2N(CC1)C(=C(C2C#N)C2=CC=CC=C2)Cl | C19H21ClN4O
